US07973060B2
1-(2,4-dichloro-benzyl)-4-hydroxy-1H-pyridin-2-one
4-benzyloxy-1-(2,4-dichloro-benzyl)-1H-pyridin-2-one synthesized by the same method as Example 1 was hydrogenated with Pd/C to obtain the titled compound.

reactant | 4-benzyloxy-1-(2,4-dichloro-benzyl)-1H-pyridin-2-one | C(C1=CC=CC=C1)OC1=CC(N(C=C1)CC1=C(C=C(C=C1)Cl)Cl)=O | C19H15Cl2NO2
catalyst | Pd/C | [Pd] | Pd
product | 1-(2,4-dichloro-benzyl)-4-hydroxy-1H-pyridin-2-one | ClC1=C(CN2C(C=C(C=C2)O)=O)C=CC(=C1)Cl | C12H9Cl2NO2
